US07767675B2
Step 4. 2-chloro-3-quinolin-6-ylbutanal
L-Proline (5.8 mg, 0.050 mmol) was added to a solution of 3-quinolin-6-ylbutanal (50 mg, 0.25 mmol) in chloroform (0.5 mL) at 0° C. followed by addition of N-chlorosuccinimide (36.9 mg, 0.276 mmol). The mixture was stirred at RT for 2 h, diluted with hexanes and filtered. The filtrate was concentrated and purified by chromatography on silica gel with EtOAc in methylene chloride (0-10%) to afford the desired product (0.048 g, 82%). LCMS: (M+H)=234.1/236.1.

reactant | L-Proline | 0.050 mmol, 5.8 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 3-quinolin-6-ylbutanal | 0.25 mmol, 50 mg | N1=CC=CC2=CC(=CC=C12)C(CC=O)C | C13H13NO
reactant | N-chlorosuccinimide | 0.276 mmol, 36.9 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-3-quinolin-6-ylbutanal | 0.048 g, 82% | ClC(C=O)C(C)C=1C=C2C=CC=NC2=CC1 | C13H12ClNO
